US05025031
Sulfamic acid 3-nitrophenyl ester
This compound was prepared according to the procedure used in Example 56. A mixture of 13.9 g (0.1 mole) of 3-nitrophenol and 14.8 g (0.105 mole) of chlorosulfonyl isocyanate in 100 ml of toluene gave 16.9 g (78%) of tan flakes, mp 118°-120° C.

reactant | 3-nitrophenol | 0.1 mole, 13.9 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | chlorosulfonyl isocyanate | 0.105 mole, 14.8 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3-nitrophenyl ester | [N+](=O)([O-])C=1C=C(C=CC1)OS(N)(=O)=O | C6H6N2O5S
